US08426420B2
iii) {1-[2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-acetyl]-piperidin-4-yl}-carbamic acid butyl ester
To solution of 250 mg 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid in 4 ml DMF were added 231 mg HATU, 0.10 ml DIPEA and 156 mg [1-(2-Amino-acetyl)-piperidin-4-yl]-carbamic acid butyl ester. After stirring for 12 h it was concentrated and the residue dissolved in dichloromethane. It was extracted with aqueous LiCl (4% w/w), aqueous NaHCO3 and 0.1 M HCl. The organic layer was dried over MgSO4 and concentrated to furnish the crude coupling product which was further purified by preparative HPLC (C18 reverse phase column, elution with a water/MeCN gradient with 0.1% TFA) to give the title compound.

reactant | 5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid | 250 mg | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(COC1=CC(=NN1C1=CC=CC=C1)C(=O)O)=O | C21H24N4O5
reactant | HATU | 231 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | DIPEA | 0.10 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | [1-(2-Amino-acetyl)-piperidin-4-yl]-carbamic acid butyl ester | 156 mg | C(CCC)OC(NC1CCN(CC1)C(CN)=O)=O | C12H23N3O3
solvent | DMF | 4 ml | CN(C)C=O | C3H7NO
product | {1-[2-({5-[2-((S)-2-Cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-acetyl]-piperidin-4-yl}-carbamic acid butyl ester | C(CCC)OC(NC1CCN(CC1)C(CNC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O)=O | C33H45N7O7
